US07704996B2
To a solution of [1-(4-methoxy-benzyl)-4-phenylpiperidin-4-ylmethyl]carbamic acid tert-butyl ester (3.2 mmol) in CH2Cl2 is added 1-chloroethyl chloroformate (4.7 mmol), then the mixture is stirred at room temperature for 2.5 h. After the bulk of solvent is concentrated in vacuo, the residue suspended in ether and filtered. After the filtrate is concentrated in vacuo, the residue is suspended in hexane and filtered. The filtrate is concentrated in vacuo to give the 4-(tert-butoxycarbonylaminomethyl)-4-phenylpiperidine-1-carboxylic acid 1-chloroethyl ester, which is directly used for the next reaction without further purification.

reactant | [1-(4-methoxy-benzyl)-4-phenylpiperidin-4-ylmethyl]carbamic acid tert-butyl ester | 3.2 mmol | C(C)(C)(C)OC(NCC1(CCN(CC1)CC1=CC=C(C=C1)OC)C1=CC=CC=C1)=O | C25H34N2O3
reactant | 1-chloroethyl chloroformate | 4.7 mmol | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-(tert-butoxycarbonylaminomethyl)-4-phenylpiperidine-1-carboxylic acid 1-chloroethyl ester | ClC(C)OC(=O)N1CCC(CC1)(C1=CC=CC=C1)CNC(=O)OC(C)(C)C | C20H29ClN2O4
